US05962682
1.04 g of methyl 3-amino-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate were dissolved in pyridine (30 ml), treated dropwise while cooling with ice with a solution of 1.1 g of benzo[1,3]-dioxol-5-sulphonyl chloride in toluene (10 ml) and subsequently stirred at RT for 20 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate and the organic phase was dried over magnesium sulphate. After removing the solvent there was obtained the desired methyl 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a resin.

reactant | methyl 3-amino-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 1.04 g | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC=C1)OC)OCCOC1OCCCC1 | C22H27NO7
reactant | benzo[1,3]-dioxol-5-sulphonyl chloride | 1.1 g | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | O1COC2=C1C=CC(=C2)S(=O)(=O)NC=2C=C(C(=O)OC)C=C(C2OC2=C(C=CC=C2)OC)OCCOC2OCCCC2 | C29H31NO11S
